US07923573B2
Paraformaldehyde (4.73 g, 163 mmol), magnesium chloride (7.76 g, 81.7 mmol) and triethylamine (14.2 ml, 102 mmol were added to a solution of 2-chloro-5-methylphenol (5.80 g, 40.8 mmol) in acetonitrile (100 ml) and the mixture was vigorously stirred at 90° C. for 10 hours. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. After the organic layer was successively washed with 1N hydrochloric acid, water and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate, it was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (eluting solvent: hexane/ethyl acetate=3/1) to give crude 3-chloro-2-hydroxy-6-methylbenzaldehyde. According to a method similar to Example (28-3) and Example (28-4), from the crude compound obtained in the above, tert-butyl 2-[(tert-butoxycarbonyl)oxy]-3-chloro-6-methylbenzoate was obtained (1.82 g, three-step total yield: 13%).

reactant | Paraformaldehyde | 163 mmol, 4.73 g | C=O | CH2O
reactant | magnesium chloride | 81.7 mmol, 7.76 g | [Cl-].[Mg+2].[Cl-]
reactant | 2-chloro-5-methylphenol | 40.8 mmol, 5.80 g | ClC1=C(C=C(C=C1)C)O | C7H7ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-chloro-2-hydroxy-6-methylbenzaldehyde | ClC=1C(=C(C=O)C(=CC1)C)O | C8H7ClO2
